US05985253
Preparation of 2,6-dimethyl-1-(2'-mercaptoethyl)-piperidine
In a 500 ml three-necked flask 113.2 g(1 mol) of 2,6-dimethylpiperidine in 250 mol toluene was heated at 90° C. Then 60.12 g (1 mol) thiirane is added to the resulting reaction mixture dropwise and the reaction mixture is heated for 5 hours under reflux. The reaction mixture is concentrated in vacuum with a rotary evaporator and is fractionally distilled using a Vigreux column. The yield amounts to 60.55 g of the named compound(35%).

reactant | 2,6-dimethylpiperidine | 1 mol, 113.2 g | CC1NC(CCC1)C | C7H15N
reactant | toluene | 250 mol | C1(=CC=CC=C1)C | C7H8
reactant | thiirane | 1 mol, 60.12 g | S1CC1 | C2H4S
product | 2,6-dimethyl-1-(2'-mercaptoethyl)-piperidine | CC1N(C(CCC1)C)CCS | C9H19NS
